US05061706
To a solution of 0.4 g (1.5 mmol) 7-cyano-1-hydroxy-6-trifluoromethylquinoxaline-2,3(1H,4H)-dione in 40 ml ethanol was added 20 ml 0.5 M phosphate buffer pH 7.4. The mixture was added 0.8 ml (9.3 mmol) allyl bromide, and then stirred at 25° C. for 4 h. Addition of 80 ml water gave 0.33 g (72%) 1-allyloxy-7-cyano-6-trifluoromethylquinoxaline-2,3(1H,4H)-dione as a precipitate. M.p. 239° C. decomp. (methanol-water). NMR (DMSO-d6) 7.9 (1H, s), 7.6 (1H, s), 6.1 (1H, m), 5.4 (2H, m), 4.7 (2H, d).

reactant | 7-cyano-1-hydroxy-6-trifluoromethylquinoxaline-2,3(1H,4H)-dione | 1.5 mmol, 0.4 g | C(#N)C1=C(C=C2NC(C(N(C2=C1)O)=O)=O)C(F)(F)F | C10H4F3N3O3
reactant | phosphate | 0.5 M, 20 ml, pH 7.4 | P(=O)([O-])([O-])[O-]
reactant | allyl bromide | 9.3 mmol, 0.8 ml | C(C=C)Br | C3H5Br
reactant | water | 80 ml | O | H2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 1-allyloxy-7-cyano-6-trifluoromethylquinoxaline-2,3(1H,4H)-dione | 0.33 g, 72% | C(C=C)ON1C(C(NC2=CC(=C(C=C12)C#N)C(F)(F)F)=O)=O | C13H8F3N3O3
